US08603975B2
To a solution of 4-nitropyrrazole (2.0 g) in DMF was added NaH (60% dispersion in oil) under ice cooling. After stirring at the same temperature for 10 minutes, 2-bromoethyl methyl ether (2.00 ml) and NaI (2.92 g) was added. The mixture was then stirred at room temperature for 3 hours, quenched by phosphate buffer solution (pH=7) and extracted with EtOAc. The extract was washed with H2O and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give 1-(2-methoxyethyl)-4-nitro-1H-pyrazole (2.15 g).

reactant | 4-nitropyrrazole | 2.0 g | C1=C(C=NN1)[N+](=O)[O-] | C3H3N3O2
reactant | NaH | [H-].[Na+]
reactant | 2-bromoethyl methyl ether | 2.00 ml | COCCBr | C3H7BrO
reactant | NaI | 2.92 g | [Na+].[I-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-methoxyethyl)-4-nitro-1H-pyrazole | 2.15 g | COCCN1N=CC(=C1)[N+](=O)[O-] | C6H9N3O3
